US03983246
To a solution of 50 g of hydroxylamine hydrochloride in 300 ml of water was added a suspension of 20 g of 4-chlorobenzaldehyde in 200 ml of 10% aqueous sodium hydroxide solution. Ethanol was then added until the mixture was clear. The solution was heated on a steam bath for 25 minutes, then cooled in an ice bath. The solid which separated was collected by filtration and dried in a vacuum desiccator. A second fraction was obtained by adding water just to the cloud point. This solid was collected and dried and the two products combined to give 16.75 g of 4-chlorobenzaldoxime, m.p. 108°-109°.

reactant | hydroxylamine hydrochloride | 50 g | Cl.NO
reactant | 4-chlorobenzaldehyde | 20 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Ethanol | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 4-chlorobenzaldoxime | 16.75 g | ClC1=CC=C(C=NO)C=C1 | C7H6ClNO
